US08232289B2
A round-bottom flask containing 3-(2,5-dihydrofuran-2-yl)-2-fluoropyridine (170 mg, 1 mmol) and 10% Pd/C in methanol (3.1 mL) is evacuated under vacuum and filled with hydrogen with the aid of a balloon. The reaction is stirred overnight at room temperature and filtered over celite. The solvent is evaporated in vacuo to give 148 mg of 2-fluoro-3-(tetrahydrofuran-2-yl)pyridine. MS (m/z): 168 (M+1).

reactant | 3-(2,5-dihydrofuran-2-yl)-2-fluoropyridine | 1 mmol, 170 mg | O1C(C=CC1)C=1C(=NC=CC1)F | C9H8FNO
solvent | methanol | 3.1 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-fluoro-3-(tetrahydrofuran-2-yl)pyridine | 148 mg | FC1=NC=CC=C1C1OCCC1 | C9H10FNO
